* SPICE Netlist for Given Circuit
* Voltage node definitions:
* 3 - v_o
* 2 - Ground Connection
* Dependent Current Sources
I1 2 3 GMB2
I2 2 2 GM
* Resistors
R1 2 5 R1
? Missing component
* Ground
VSS 2 0 DC 0
* .PARAM declarations for transconductance gain
.PARAM GMB2 = -gmb2
.PARAM GM = gm
* Analysis
.TRAN 1n 10u
.END
